US08211908B2
To 2.8 g of 1-(1,3-dioxolan-2-ylmethyl)-7-methoxy-1,8-naphthyridin-2(1H)-one, 20 mL of an 80% aqueous trifluoroacetic acid solution was added, and the mixture was stirred at 60 to 72° C. for 3 hours 20 minutes, and at 80 to 85° C. for 2 hours 20 minutes, 4 mL of water was then added thereto and the mixture was further stirred for 4 hours. The reaction mixture was cooled to room temperature and then left overnight, and the solvent was distilled off under reduced pressure. To the resultant residue, a saturated aqueous sodium hydrogen carbonate solution and chloroform were added, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 1.8 g of (7-methoxy-2-oxo-1,8-naphthyridin-1(2H)-yl)acetaldehyde as a yellow solid.

reactant | 1-(1,3-dioxolan-2-ylmethyl)-7-methoxy-1,8-naphthyridin-2(1H)-one | 2.8 g | O1C(OCC1)CN1C(C=CC2=CC=C(N=C12)OC)=O | C13H14N2O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 4 mL | O | H2O
product | (7-methoxy-2-oxo-1,8-naphthyridin-1(2H)-yl)acetaldehyde | 1.8 g | COC1=CC=C2C=CC(N(C2=N1)CC=O)=O | C11H10N2O3
